US07081454B2
(S)-6-(1-Hydroxymethyl-2-phenyl-ethylamino)-5-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-3H-pyrimidin-4-one:
To a solution of (S)-2-[6-chloro-5-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-pyrimidin-4-ylamino]-3-phenyl-propan-1-ol in 4 N HCl (0.5 mL) and acetic acid (0.5 mL) was added two drops of water. The reaction mixture was heated to 100° C. for 8 h, cooled to room temperature, and neutralized with ammonia in methanol. After concentration, the residue was purified by prep. HPLC to yield the title compound (26 mg, 37% for two steps). 1H NMR (400 MHz, CD3OD) δ 9.41 (1H, narrow t, J=1.5 Hz), 8.06 (1H, narrow dd, J=1.6, 1.9 Hz), 7.93 91H, s), 7.77 (1H, narrow dd, J=1.6, 1.8 Hz), 7.73 (1H, narrow d, J=1.9 Hz), 7.11–7.21 (6H, m), 4.70–4.74 (1H, m), 3.74 (2H, d, J=4.7 Hz), 3.11 (1H, dd, J=6.1, 13.5 Hz), 3.00 (1H, dd, J=7.8, 13.5 Hz), 2.70 (3H, s). LCMS (M+H)+ m/z 442 (t=2.17 min.).

reactant | (S)-2-[6-chloro-5-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-pyrimidin-4-ylamino]-3-phenyl-propan-1-ol | ClC1=C(C(=NC=N1)N[C@H](CO)CC1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2C)N2C=NC=C2 | C24H22ClN7O
reactant | ammonia | N | H3N
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 4 N, 0.5 mL | Cl | ClH
catalyst | water | two drops | O | H2O
solvent | methanol | CO | CH4O
product | (S)-6-(1-Hydroxymethyl-2-phenyl-ethylamino)-5-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-3H-pyrimidin-4-one | 26 mg, 37% | OC[C@H](CC1=CC=CC=C1)NC1=C(C(NC=N1)=O)C1=NC2=C(N1)C=C(C=C2C)N2C=NC=C2 | C24H23N7O2
